US06949616B2
Synthesis of p-Vinylphenylmethyldiethoxysilane
In a three-neck flask under argon and while being stirred mechanically, 11.7 g (480 mmol) of magnesium chips and some iodine crystals in 40 ml of a solution A (55% diethyl ether, 45% tetrahydrofuran) are mixed together. Then, a solution of 80.0 g (436 mmol) of bromostyrene, dissolved in 210 ml of solvent mixture A, is slowly added in drops, and thus a continuous exothermic reaction is achieved. The solution is stirred under reflux. After the end of the exothermic reaction, the reaction mixture is cooled to 2° C., and then 155.5 g (872 mmol) of methyltriethoxysilane in 160 ml of dry diethyl ether is added; the temperature must not exceed 15° C. After the end of the substitution reaction, stirring is continued at room temperature overnight. Approximately 200 ml of n-heptane is then added, thus the magnesium salts precipitate. The latter are filtered off, 9.7·10−2 g (0.44 mmol) of 2,5-di-tert-butylhydroquinone is added to the filtrate, the solvent is drawn off in a rotary evaporator, and the residue is distilled in fractionated form under vacuum. 72.5 g (307 mmol) of the product was obtained with a yield: 70.3%, and a boiling point of 65-66° C. (0.05 mbar)

reactant | magnesium | 480 mmol, 11.7 g | [Mg] | Mg
reactant | iodine crystals | II | I2
reactant | bromostyrene | 436 mmol, 80.0 g | BrC=CC1=CC=CC=C1 | C8H7Br
reactant | methyltriethoxysilane | 872 mmol, 155.5 g | C[Si](OCC)(OCC)OCC | C7H18O3Si
reactant | 2,5-di-tert-butylhydroquinone | C(C)(C)(C)C1=C(O)C=C(C(=C1)O)C(C)(C)C | C14H22O2
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
solvent | n-heptane | 200 ml | CCCCCCC | C7H16
product | p-Vinylphenylmethyldiethoxysilane | 307 mmol, 72.5 g, yield: 70.3% | C(=C)C1=CC=C(C=C1)C[SiH](OCC)OCC | C13H20O2Si
